US08871943B2
Methyl 4-(acetylamino)-3,6-dichloro-5-fluoro-picolinate
In a 50 mL three-neck round-bottomed flask was charged the methyl 4-amino-3,6-dichloro-5-fluoropicolinate (12.1 mmol), toluene (50 mL), and CHCl3 (15 mL). To this suspension was added dropwise a premixed solution of sulfuric acid (0.05 mmol) and acetic anhydride (24.2 mmol), in toluene (5 mL). The reaction mixture was then heated, under a N2 stream, to 55-60° C. and the reaction was monitored by TLC. Once the reaction was deemed complete the heating mantle was removed and the reaction solution was cooled to ambient temperature. The mixture was then added dropwise to a mixture of saturated aqueous NaHCO3/toluene/CHCl3 (180 mL, 3/10/5), stirred for 20 min, and the layers separated using a reparatory funnel. To the organic layer was added silica gel (14.8 g) and the solvent was removed using a rotary evaporator. The crude product on silica was then purified using a Combi-Flash silica gel purification system using ethyl acetate and hexane as eluents. The purity of the product was analyzed by HPLC: mp=183-186° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.5 (s, 1H, NH), 3.93 (s, 3H), 2.17 (s, 3H); 13C NMR (100.6 MHz, DMSO-d6) δ 167.9, 162.8, 151.7, 149.0, 142.8 (d, JF-C=24 Hz), 136.2 (d, JF-C=80 Hz), 134.7 (d, JF-C=56 Hz), 126.6, 53.2, 22.5; 19F NMR (376.5 MHz, DMSO-d6) δ −114.5; MS Calcd. for C9H7Cl2FN2O3: 280.0. Found: 281 (MH+), 245, 180.

reactant | methyl 4-amino-3,6-dichloro-5-fluoropicolinate | 12.1 mmol | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
reactant | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuric acid | 0.05 mmol | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 24.2 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(acetylamino)-3,6-dichloro-5-fluoro-picolinate | C(C)(=O)NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C9H7Cl2FN2O3
